US05853699
a) N-Benzyl-N-(2-hydroxyethyl)-glycine-tert-butyl ester
15.1 g (100 mmol) of N-benzylethanolamine is dissolved in 50 ml of tetrahydrofuran and mixed with 15 ml of water and 13.8 g (100 mmol) of potassium carbonate. After instillation of 20.5 g (105 mmol) of bromoacetic acid-tert-butyl ester, it is stirred for 6 hours at 65° C. After cooling, it is filtered, concentrated by evaporation in a vacuum and the residue is chromatographed on silica gel with diethyl ether/hexane/triethylamine. The product fractions are concentrated by evaporation in a vacuum and dried.

reactant | N-benzylethanolamine | 100 mmol, 15.1 g | C(C1=CC=CC=C1)NCCO | C9H13NO
reactant | water | 15 ml | O | H2O
reactant | potassium carbonate | 100 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetic acid-tert-butyl ester | 105 mmol, 20.5 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-Benzyl-N-(2-hydroxyethyl)-glycine-tert-butyl ester | C(C)(C)(C)OC(CN(CCO)CC1=CC=CC=C1)=O | C15H23NO3
